US09278938B2
Under a nitrogen atmosphere, 6-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide (1.0 g, 1.91 mmol) was added to N,N-dimethylacetamide (50 mL), and then sodium hydride (oil, 0.15 g, 3.85 mmol) was added at room temperature, and the mixture was stirred at the same temperature for about 60 hr. To the reaction mixture were added dropwise water (50 mL) and 1 mol/L hydrochloric acid (5 mL) at room temperature, and the mixture was stirred at the same temperature for 45 min. Then, the reaction mixture was cooled to 0° C., and stirred for 2 hr. The crystals were collected by filtration, and washed with water (30 mL). The obtained wet crystals were dried under reduced pressure to give N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (0.89 g, 1.71 mmol). yield 90%.

reactant | 6-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide | 1.91 mmol, 1.0 g | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H29N3O2
reactant | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
reactant | sodium hydride | 3.85 mmol, 0.15 g | [H-].[Na+]
reactant | hydrochloric acid | 1 mol/L, 5 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 1.71 mmol, 0.89 g, yield 90% | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
